US04921852
To a solution of (2S,4R)-4-t-butyldimethylsilyloxy-1-(4-nitrobenzyloxycarbonyl)-2-[1-(4-nitrobenzyloxy- carbonyl)-2-imidazolin-2-yl]pyrrolidine (1.4 g) in methanol was added conc. hydrochloric acid (0.4 ml). After stirring at ambient temperature for 20 hours, saturated aqueous sodium bicarbonate (3 ml) was added thereto. The mixture was evaporated, extracted with ethyl acetate, and washed with water and brine successively. The dried organic layer was evaporated, the obtained oil was subjected to a column chromatography on silica gel and eluted with a mixture of dichloromethane and methanol (20:1, V/V) to give (2S,4R)-4-hydroxy-1-(4-nitrobenzyloxycarbonyl)-2-[1-(4-nitrobenzyloxycarbonyl)-2-imidazolin-2-yl]pyrrolidine (660 mg).

reactant | (2S,4R)-4-t-butyldimethylsilyloxy-1-(4-nitrobenzyloxycarbonyl)-2-[1-(4-nitrobenzyloxy- carbonyl)-2-imidazolin-2-yl]pyrrolidine | 1.4 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C=1N(CCN1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C29H37N5O9Si
reactant | hydrochloric acid | 0.4 ml | Cl | ClH
reactant | sodium bicarbonate | 3 ml | C([O-])(O)=O.[Na+]
solvent | methanol | CO | CH4O
product | (2S,4R)-4-hydroxy-1-(4-nitrobenzyloxycarbonyl)-2-[1-(4-nitrobenzyloxycarbonyl)-2-imidazolin-2-yl]pyrrolidine | 660 mg | O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C=1N(CCN1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C23H23N5O9
